US07750003B2
Phenyl N-[4-[4-[2-(3,5-difluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.413 mL, 3.29 mmol) was added to 4-[4-[2-(3,5-difluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (1.46 g, 2.99 mmol) and sodium hydrogen carbonate (0.377 g, 4.48 mmol) in dioxane (25 mL). The resulting slurry was stirred at RT for 1 hour. The mixture was partitioned between ethyl acetate and water. The organic solution was dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was chromatographed on silica, eluting with 25%-80% ethyl acetate in isohexane, to give a colourless gum. This material was triturated with diethyl ether to give the desired material as a colourless crystalline solid (1.808 g).

reactant | Phenyl chloroformate | 3.29 mmol, 0.413 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[2-(3,5-difluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 2.99 mmol, 1.46 g | FC=1C=C(C=C(C1)F)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H26F2N4O3S
reactant | sodium hydrogen carbonate | 4.48 mmol, 0.377 g | C(O)([O-])=O.[Na+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | Phenyl N-[4-[4-[2-(3,5-difluorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 1.808 g | FC=1C=C(C=C(C1)F)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C31H30F2N4O5S
